US04481142
9-Chloro-7-(2-fluorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine
A suspension of 5.1 g (0.015 mol) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one and 2.1 g (0.0225 mol) of acetamidine hydrochloride in 150 ml of methanol was stirred at room temperature under argon, and treated with 2.4 g (0.045 mol) of sodium methylate in one portion. After stirring for 10 min, 90 ml of methylene chloride was added and stirring was continued. Another 2.4 g (0.045 mol) of sodium methylate and 2.1 g (0.0225 mol) of acetamidine hydrochloride were added after 2 hrs. The addition of 0.045 mol of sodium methylate and 0.0225 mol of acetamidine hydrochloride was repeated after another 2 hr interval and stirring at room temperature was continued overnight. After diluting with 150 ml of methylene chloride, the mixture was washed with water, dried over sodium sulfate and evaporated at reduced pressure. Recrystallization of the residue from hexane (charcoal) gave white crystals: mp 104° -107° C.

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 0.015 mol, 5.1 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)F)=CN(C)C)=O)C=C1 | C19H16ClFN2O
reactant | acetamidine hydrochloride | 0.0225 mol, 2.1 g | Cl.C(C)(=N)N
reactant | sodium methylate | 0.045 mol, 2.4 g | C[O-].[Na+]
reactant | sodium methylate | 0.045 mol, 2.4 g | C[O-].[Na+]
reactant | acetamidine hydrochloride | 0.0225 mol, 2.1 g | Cl.C(C)(=N)N
reactant | sodium methylate | 0.045 mol | C[O-].[Na+]
reactant | acetamidine hydrochloride | 0.0225 mol | Cl.C(C)(=N)N
solvent | methanol | 150 ml | CO | CH4O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-fluorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)C)C=C1 | C19H13ClFN3
